### PR TITLE
Add logarithm (base 2) functions and properties (over Natural numbers)

### PR DESCRIPTION
**Pull request by bolt12**
This PR introduces `Data.Nat.Logarithm`, logarithms of base 2 over Nats and respective properties.

This is the result of some hacking on personal projects and I struggled quite a lot with getting logarithms and respective proofs to work elegantly in Agda so, by no means I think this ought to be the final form of this PR. Please correct me/let me know in which ways I can improve my module!

For now I only added base 2 and I couldn't work out a more general proof of `⌈log₂2*b⌉≡1+⌈log₂b⌉` lemma. Tips are appreciated!

Another thing: Obviously this could be abstracted to any base but for now I think this is a good starting point. 😄

### CODE REVIEW

File: src/Data/Nat/Properties.agda [hunk 1]
```diff
@@ -1062,6 +1062,11 @@ m^n≡1⇒n≡0∨m≡1 m (suc n) eq = inj₂ (m*n≡1⇒m≡1 m (m ^ n) eq)
 m^n≢0 : ∀ m n .{{_ : NonZero m}} → NonZero (m ^ n)
 m^n≢0 m n = ≢-nonZero (≢-nonZero⁻¹ m ∘′ m^n≡0⇒m≡0 m n)
 
+2^r>0 : ∀ (r : ℕ) → 2 ^ r > 0
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda:1065]: As per the [style guide](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md#variables-1), can we use the names `n`, `m` etc. for natural number variables? (applies to several proofs in this PR).

File: src/Data/Nat/Properties.agda [hunk 2]
```diff
@@ -1062,6 +1062,11 @@ m^n≡1⇒n≡0∨m≡1 m (suc n) eq = inj₂ (m*n≡1⇒m≡1 m (m ^ n) eq)
...
+2^r>0 zero = s≤s z≤n
+2^r>0 (suc r) with 2^r>0 r
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda:1067]: I don't think we need the `with` abstraction here?

File: src/Data/Nat/Properties.agda [hunk 3]
```diff
@@ -1883,13 +1888,25 @@ m≤∣m-n∣+n m n = subst (m ≤_) (+-comm n _) (m≤n+∣m-n∣ m n)
 ⌊n/2⌋<n zero    = z<s
 ⌊n/2⌋<n (suc n) = s<s (s≤s (⌊n/2⌋≤n n))
 
+a≡⌊a+a/2⌋ : ∀ {a} → a ≡ ⌊ (a + a) /2⌋
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Properties.agda:1891]: Could we make the argument to these two proofs explicit rather than implicit? I know they can be inferred most of the time, but it will make proofs using them easier to read.

File: src/Data/Nat/Logarithm.agda [hunk 4]
```diff
@@ -0,0 +1,141 @@
...
+
+⌈log2⌉-acc-irrelevant : ∀ a {acc acc'} → ⌈log2⌉ a acc ≡ ⌈log2⌉ a acc'
+⌈log2⌉-acc-irrelevant zero          {acc rs} {acc rs₁} = refl
+⌈log2⌉-acc-irrelevant (suc zero)    {acc rs} {acc rs₁} = refl
+⌈log2⌉-acc-irrelevant (suc (suc a)) {acc rs} {acc rs'} =
+  cong suc (⌈log2⌉-acc-irrelevant (suc ⌊ suc a /2⌋))
+
+⌈log2⌉-cong-irr : ∀ {a b} {acc acc'} → (p : a ≡ b) →
+                  ⌈log2⌉ a acc ≡ ⌈log2⌉ b acc'
+⌈log2⌉-cong-irr {acc = Acc} refl = ⌈log2⌉-acc-irrelevant _ {Acc}
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:103]: The naming of the `Acc` is weird, looks like it's a type. In general can we stick with consistent names for things of type `Acc` throughout the module?

File: src/Data/Nat/Logarithm.agda [hunk 5]
```diff
@@ -0,0 +1,141 @@
...
+
+⌈log2⌉-mono-≤ : ∀ {a b} {acc acc'} → a ≤ b → ⌈log2⌉ a acc ≤ ⌈log2⌉ b acc'
+⌈log2⌉-mono-≤ {zero}        {zero}        {_}      {_}       z≤n       = z≤n
+⌈log2⌉-mono-≤ {zero}        {suc b}       {_}      {_}       z≤n       = z≤n
+⌈log2⌉-mono-≤ {suc zero}    {suc zero}    {_}      {_}       (s≤s z≤n) = z≤n
+⌈log2⌉-mono-≤ {suc zero}    {suc (suc b)} {_}      {_}       (s≤s z≤n) = z≤n
+⌈log2⌉-mono-≤ {suc (suc a)} {suc (suc b)} {acc rs} {acc rs'} (s≤s (s≤s p)) =
+  s≤s (begin
+    ⌈log2⌉ (suc ⌈ a /2⌉) _ ≤⟨ ⌈log2⌉-mono-≤ (⌈n/2⌉-mono (+-mono-≤ (≤-refl {2}) p)) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:112]: Should be able to use `+-monoˡ-≤` or `+-monoʳ-≤` instead of `+-mono-≤ (≤-refl {2})` here (can't remember which!)

File: src/Data/Nat/Logarithm.agda [hunk 6]
```diff
@@ -0,0 +1,141 @@
...
+                  ⌈log2⌉ a acc ≡ ⌈log2⌉ b acc'
+⌈log2⌉-cong-irr {acc = Acc} refl = ⌈log2⌉-acc-irrelevant _ {Acc}
+
+⌈log2⌉-mono-≤ : ∀ {a b} {acc acc'} → a ≤ b → ⌈log2⌉ a acc ≤ ⌈log2⌉ b acc'
+⌈log2⌉-mono-≤ {zero}        {zero}        {_}      {_}       z≤n       = z≤n
+⌈log2⌉-mono-≤ {zero}        {suc b}       {_}      {_}       z≤n       = z≤n
+⌈log2⌉-mono-≤ {suc zero}    {suc zero}    {_}      {_}       (s≤s z≤n) = z≤n
+⌈log2⌉-mono-≤ {suc zero}    {suc (suc b)} {_}      {_}       (s≤s z≤n) = z≤n
+⌈log2⌉-mono-≤ {suc (suc a)} {suc (suc b)} {acc rs} {acc rs'} (s≤s (s≤s p)) =
+  s≤s (begin
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:111]: Not sure how much this one line equational reasoning adds to comprehensibility? If we got rid of it, we could also get rid of the implicit arguments for `{a}` and `{b}` right, which would make it's presentation much tidier.

File: src/Data/Nat/Logarithm.agda [hunk 7]
```diff
@@ -0,0 +1,141 @@
...
+⌊log₂2*b⌋≡1+⌊log₂b⌋ b = ⌊log2⌋2*b≡1+⌊log2⌋b b
+
+⌊log2⌋2^n≡n : ∀ n {acc} → ⌊log2⌋ (2 ^ n) acc ≡ n
+⌊log2⌋2^n≡n zero    = refl
+⌊log2⌋2^n≡n (suc n) = begin
+  ⌊log2⌋ ((2 ^ n) + ((2 ^ n) + zero)) _ ≡⟨ ⌊log2⌋2*b≡1+⌊log2⌋b (2 ^ n) (2^r>0 n) ⟩
+  1 + ⌊log2⌋ (2 ^ n) (<-wellFounded _)  ≡⟨ cong suc (⌊log2⌋2^n≡n n) ⟩
+  suc n ∎
+  where
+    open ≡-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:87]: Can you put this on the same line as the `where`? And align the `∎` with the `≡`?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks for the great PR! I've added a first round of minor feedback below, but my main comment is that it would be great if we could just present the users of the library with a "clean" interface consisting of `⌊log₂_⌋` and `⌈log₂_⌉`. 

How about we put `⌊log2⌋` and `⌈log2⌉` and all the related proofs in `Data.Nat.Logarithm.Core`?

File: src/Data/Nat/Properties.agda (hunk 1 above)
Comment (bolt12) [reply src/Data/Nat/Properties.agda]: Done!

File: src/Data/Nat/Properties.agda (hunk 3 above)
Comment (bolt12) [reply src/Data/Nat/Properties.agda]: Done!

File: src/Data/Nat/Logarithm.agda (hunk 4 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda [hunk 8]
```diff
@@ -0,0 +1,141 @@
...
+------------------------------------------------------------------------
+-- Properties of ⌈log₂⌉ and ⌈log₂_⌉
+
+⌈log2⌉-acc-irrelevant : ∀ a {acc acc'} → ⌈log2⌉ a acc ≡ ⌈log2⌉ a acc'
+⌈log2⌉-acc-irrelevant zero          {acc rs} {acc rs₁} = refl
+⌈log2⌉-acc-irrelevant (suc zero)    {acc rs} {acc rs₁} = refl
+⌈log2⌉-acc-irrelevant (suc (suc a)) {acc rs} {acc rs'} =
+  cong suc (⌈log2⌉-acc-irrelevant (suc ⌊ suc a /2⌋))
+
+⌈log2⌉-cong-irr : ∀ {a b} {acc acc'} → (p : a ≡ b) →
```
[the remark this answers is not in the document]
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda (hunk 6 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Nice! Thank you! Done!

File: src/Data/Nat/Logarithm.agda (hunk 7 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda [hunk 9]
```diff
@@ -0,0 +1,54 @@
...
+⌈log₂_⌉ : ℕ → ℕ
+⌈log₂ n ⌉ = ⌈log2⌉ n (<-wellFounded n)
+
+------------------------------------------------------------------------
+-- Properties of ⌊log₂⌋ and ⌊log₂_⌋
+
+⌊log₂⌊n/2⌋⌋≡⌊log₂n⌋∸1 : ∀ {n} → ⌊log₂ ⌊ n /2⌋ ⌋ ≡ ⌊log₂ n ⌋ ∸ 1
+⌊log₂⌊n/2⌋⌋≡⌊log₂n⌋∸1 {n} = ⌊log2⌋⌊n/2⌋≡⌊log2⌋n∸1 {n}
+
+⌊log₂2*b⌋≡1+⌊log₂b⌋ : ∀ b → b > 0 → ⌊log₂ (2 * b) ⌋ ≡ 1 + ⌊log₂ b ⌋
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:35]: Still a rogue `b` and also I think there should be brackets around the `2*n`, i.e. `⌊log₂[2*n]⌋≡1+⌊log₂n⌋`? Same for many proofs below.

We could also use the new `NonZero` instance argument scheme for this (and similar) proofs?, e.g.
```
⌊log₂[2*n]⌋≡1+⌊log₂n⌋ : ∀ n .{{_ : NonZero n}} → ⌊log₂ (2 * n) ⌋ ≡ 1 + ⌊log₂ n ⌋
```

File: src/Data/Nat/Logarithm.agda [hunk 10]
```diff
@@ -0,0 +1,54 @@
...
+⌊log₂2^n⌋≡n : ∀ (n : ℕ) → ⌊log₂ (2 ^ n) ⌋ ≡ n
+⌊log₂2^n⌋≡n n = ⌊log2⌋2^n≡n n
+
+------------------------------------------------------------------------
+-- Properties of ⌈log₂⌉ and ⌈log₂_⌉
+
+⌈log₂⌉-mono-≤ : ∀ {a b} → a ≤ b → ⌈log₂ a ⌉ ≤ ⌈log₂ b ⌉
+⌈log₂⌉-mono-≤ p = ⌈log2⌉-mono-≤ p
+
+⌈log₂⌉n/2⌉⌉≡⌈log₂n⌉∸1 : ∀ {n} → ⌈log₂ ⌈ n /2⌉ ⌉ ≡ ⌈log₂ n ⌉ ∸ 1
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:47]: The second `⌉` should be a `⌈` and I think `n` should be explicit here?

File: src/Data/Nat/Logarithm.agda [hunk 11]
```diff
@@ -0,0 +1,54 @@
...
+⌈log₂⌉n/2⌉⌉≡⌈log₂n⌉∸1 {n} = ⌈log2⌉⌈n/2⌉≡⌈log2⌉n∸1 {n}
+
+⌈log₂2*b⌉≡1+⌈log₂b⌉ : ∀ b → b > 0 → ⌈log₂ (2 * b) ⌉ ≡ 1 + ⌈log₂ b ⌉
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:50]: Rogue `b`

File: src/Data/Nat/Logarithm.agda [hunk 12]
```diff
@@ -0,0 +1,54 @@
...
+⌊log₂2*b⌋≡1+⌊log₂b⌋ : ∀ b → b > 0 → ⌊log₂ (2 * b) ⌋ ≡ 1 + ⌊log₂ b ⌋
+⌊log₂2*b⌋≡1+⌊log₂b⌋ b = ⌊log2⌋2*b≡1+⌊log2⌋b b
+
+⌊log₂2^n⌋≡n : ∀ (n : ℕ) → ⌊log₂ (2 ^ n) ⌋ ≡ n
+⌊log₂2^n⌋≡n n = ⌊log2⌋2^n≡n n
+
+------------------------------------------------------------------------
+-- Properties of ⌈log₂⌉ and ⌈log₂_⌉
+
+⌈log₂⌉-mono-≤ : ∀ {a b} → a ≤ b → ⌈log₂ a ⌉ ≤ ⌈log₂ b ⌉
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:44]: Rogue `a` and `b`

File: src/Data/Nat/Logarithm.agda [hunk 13]
```diff
@@ -0,0 +1,54 @@
...
+
+-- Ceil version
+
+⌈log₂_⌉ : ℕ → ℕ
+⌈log₂ n ⌉ = ⌈log2⌉ n (<-wellFounded n)
+
+------------------------------------------------------------------------
+-- Properties of ⌊log₂⌋ and ⌊log₂_⌋
+
+⌊log₂⌊n/2⌋⌋≡⌊log₂n⌋∸1 : ∀ {n} → ⌊log₂ ⌊ n /2⌋ ⌋ ≡ ⌊log₂ n ⌋ ∸ 1
```
Comment (MatthewDaggitt) [inline src/Data/Nat/Logarithm.agda:32]: `n` should be explicit?

**Review by MatthewDaggitt — COMMENTED** [review]
Thanks, here's another round of feedback!

File: src/Data/Nat/Logarithm.agda (hunk 9 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda:35]: Definitely! At the time I was not using the most recent std library version but I will do that!

File: src/Data/Nat/Logarithm.agda (hunk 10 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda:47]: oops good catch! Thank you!

File: src/Data/Nat/Logarithm.agda (hunk 9 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda (hunk 10 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda (hunk 11 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda (hunk 12 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

File: src/Data/Nat/Logarithm.agda (hunk 13 above)
Comment (bolt12) [reply src/Data/Nat/Logarithm.agda]: Done!

**Comment by MatthewDaggitt** [comment]
Changes look great, thanks! All that's missing is to add suitable entries to the `CHANGELOG` file?

**Comment by bolt12** [comment]
@MatthewDaggitt Thank you for your time! Yes indeed I forgot to add that, will do as soon as possible!

**Comment by bolt12** [comment]
Hey @MatthewDaggitt I am bit lost on how to add a suitable entry in the Changelog, can you help me? Any suggestion?

**Review by MatthewDaggitt — COMMENTED** [review]
The entry looks pretty good, only one minor comment!

File: CHANGELOG.md [hunk 14]
```diff
@@ -1344,6 +1349,11 @@ Other minor changes
   allUpTo? : ∀ (P? : U.Decidable P) (v : ℕ) → Dec (∀ {n} → n < v → P n)
 
   n≤1⇒n≡0∨n≡1 : ∀ {n : ℕ} → n ≤ 1 → n ≡ 0 ⊎ n ≡ 1
+
+  2^r>0 : ∀ (r : ℕ) → 2 ^ r > 0
+
+  a≡⌊a+a/2⌋ : ∀ {a} → a ≡ ⌊ (a + a) /2⌋
+  a≡⌈a+a/2⌉ : ∀ {a} → a ≡ ⌈ (a + a) /2⌉
```
[the remark this answers is not in the document]
Comment (bolt12) [reply CHANGELOG.md:1356]: You are absolutely right!

Thank you! I will!

**Comment by MatthewDaggitt** [comment]
Great, thanks! Once the tests have passed I'll merge it in.

**Comment by bolt12** [comment]
Thank you @MatthewDaggitt ! And thank you for your great feedback 😄
